US05382590
The procedure is analogous to that described in Example 1, but 3.0 g of 2-(2-amino-N-phenylacetamido)-N-(5-indanyl)acetamide and 1.2 g of 3-methylphenyl isocyanate are used as the starting material. After recrystallization from acetonitrile, 0.8 g of N-(5-indanyl)-2-{2-[3-(3-methylphenyl)ureido]-N-phenylacetamido}acetamide melting at 210° C. is obtained.

reactant | 2-(2-amino-N-phenylacetamido)-N-(5-indanyl)acetamide | 3.0 g | NCC(=O)N(C1=CC=CC=C1)CC(=O)NC=1C=C2CCCC2=CC1 | C19H21N3O2
reactant | 3-methylphenyl isocyanate | 1.2 g | CC=1C=C(C=CC1)N=C=O | C8H7NO
product | N-(5-indanyl)-2-{2-[3-(3-methylphenyl)ureido]-N-phenylacetamido}acetamide | 0.8 g | C1CCC2=CC(=CC=C12)NC(CN(C(CNC(=O)NC1=CC(=CC=C1)C)=O)C1=CC=CC=C1)=O | C27H28N4O3
